US08492405B2
To a mixture of methyl 4-amino-5-methylthiophene-2-carboxylate (20 g) and pyridine (100 mL) was added 2-thiophen-sulfonyl chloride (23.5 g) at 0° C., and the mixture was stirred at room temperature for 2 hr. The reaction mixture was concentrated, water was added, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography to give methyl 5-methyl-4-[(2-thienylsulfonyl)amino]thiophene-2-carboxylate (35.7 g, yield 96%) as pale-yellow crystals from a fraction eluted with ethyl acetate-hexane (1:3, volume ratio).

reactant | methyl 4-amino-5-methylthiophene-2-carboxylate | 20 g | NC=1C=C(SC1C)C(=O)OC | C7H9NO2S
reactant | 2-thiophen-sulfonyl chloride | 23.5 g | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
product | methyl 5-methyl-4-[(2-thienylsulfonyl)amino]thiophene-2-carboxylate | 35.7 g, yield 96% | CC1=C(C=C(S1)C(=O)OC)NS(=O)(=O)C=1SC=CC1 | C11H11NO4S3
